US04279822
N-(1-Cyclohexyl-3-pyrrolidinyl)-3,5-dinitrobenzamide
To 8.0 g. (0.05 mole) of 3-amino-1-cyclohexylpyrrolidine in chloroform was added with stirring 12 g. (0.052 mole) of 3,5-dinitrobenzoylchloride. After stirring one hour, the solution was extracted with dilute sodium hydroxide, dried over sodium sulfate and concentrated. The residue was recrystallized from isooctane-ethyl acetate. The product weighed 5.1 g. (29%) and melted at 159°-161° C.

reactant | 3-amino-1-cyclohexylpyrrolidine | 0.05 mole | NC1CN(CC1)C1CCCCC1 | C10H20N2
reactant | 3,5-dinitrobenzoylchloride | 0.052 mole | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1)[N+](=O)[O-] | C7H3ClN2O5
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(1-Cyclohexyl-3-pyrrolidinyl)-3,5-dinitrobenzamide | C1(CCCCC1)N1CC(CC1)NC(C1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C17H22N4O5
